US07442710B2
Preparation 4-Methanesulfonyl-biphenyl-2-carboxylic acid
To a suspension of 3.0 mmol 2-amino-5-methanesulfonyl-benzoic acid in a mixture of 1.7 ml sulfuric acid and 1.7 ml water was added dropwise a solution of 3.92 mmol sodium nitrite in 1.7 ml water at such rate that the temperature did not exceed 3° C. The mixture was stirred at 0° C. for 1 hour. A solution of 3.0 mmol KI in 1.7 ml water was added dropwise at 0° C. The brown suspension was allowed to warm to rt and stirred for 30 minutes. Excess iodine was destroyed by addition of a few drops of a sodium hydrogenosulfite solution. The solid was filtered, washed with water and dried (HV, 50° C., 1 hour) to yield the title compound. MS (m/e): 325.0 (M−H, 100%)

reactant | 2-amino-5-methanesulfonyl-benzoic acid | 3.0 mmol | NC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H9NO4S
reactant | sodium nitrite | 3.92 mmol | N(=O)[O-].[Na+]
solvent | sulfuric acid | 1.7 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 1.7 ml | O | H2O
solvent | water | 1.7 ml | O | H2O
solvent | water | 1.7 ml | O | H2O
product | 4-Methanesulfonyl-biphenyl-2-carboxylic acid | CS(=O)(=O)C=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C14H12O4S
